US07429594B2
Bromo-9-(2-hydroxy-4-phenyl-butyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 3-Bromo-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (0.45 g, 1.46 mmol) and 2-Phenethyl-oxirane (0.65 g, 4.4 mmol) in DMF (20 mL) was treated LiHMDS (5 mL, 5 mml). The mixture was heated at 90 C for 1 h and was cooled to room temperature. Saturated NH4Cl (50 mL) was added and the mixture was extracted with CH2Cl2 (3×20 mL). The organic phase was washed with H2O (3×), dried (Na2SO4), and concentrated. The resulting brown oil was chromatographed on silica with 1-5% (2N NH3-MeOH)/CH2Cl2 to afford the product as a white solid. M+1 457.

reactant | 3-Bromo-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 1.46 mmol, 0.45 g | BrC1=C(N=C2N(C1=O)CCCN2)C2=CC=NC=C2 | C12H11BrN4O
reactant | 2-Phenethyl-oxirane | 4.4 mmol, 0.65 g | C(CC1=CC=CC=C1)C1OC1 | C10H12O
reactant | LiHMDS | 5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Bromo-9-(2-hydroxy-4-phenyl-butyl)-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)CCCN2CC(CCC2=CC=CC=C2)O)C2=CC=NC=C2 | C22H23BrN4O2
